Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / amitriptyline
 
Attending: ___.
 
Chief Complaint:
Foreign body ingestion
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
Mr. ___ is a ___ M with a history of asthma and depression 
(previous suicide attempt in ___, who was transferred to ___ 
from ___ after Abdominal CT showed 2 radiopaque 
bodies in his stomach (5mm x 8mm). 

The patient says that on ___ at ~7pm when he was at work 
___) he ate a handful of mints from a jar without 
noticing any sharp objects. He then poured another handful and 
put them in his mouth at which point he noticed shards of glass 
in his hand and on his lip. That same night at ~10:30pm he had 
abdominal pain (___) and went to the ED at ___, but the wait 
was too long so he went home and work the next day. He describes 
the pain as epigastric non-radiating, constant pressure and 
sharp pain with movement and swallowing. At ~12pm on ___ when 
pt was at work he had 1 episode of bloody stools with small 
amount of blood. He does says that he has a h/o hemorrhoids and 
this was similar in presentation, but denies having any sx from 
hemorrhoids recently. His pain has progressed to a ___ since 
presenting to ___ on ___ and remains at ___. Denies 
diarrhea, constipation. 

He then went to ___ after work.  

CT at ___ showed 2 radiopaque bodies 5mm and 8mm in the 
stomach. He was then transferred to ___  

In the ED, initial vitals were:  
97.4 43 103/56 18 99% RA  
-Patient was given 1L NS and 4mg IV morphine  
-RUQ U/S was unremarkable  
-GI saw the patient and said they would scope in the AM in the 
___.  

On the floor, he says he has abdominal pain only when he someone 
presses on his stomach or when he moves side to side. No blood 
in stool. 
 
Of note he has had a suicide attempt in the past in ___ when he 
tried to hang himself. He says that he is not currently 
depressed or suicidal and denies that this was a suicide 
attempt.  

 
Past Medical History:
-Asthma
-Depression
 
Social History:
___
Family History:
No history of liver disease or anemia. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: 97.8 116/72 44 16 100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: mild expiratory wheezes throughout  
Abdomen: Soft, mild ttp in epigastrum, active BS  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation  

DISCHARGE PHYSICAL EXAM:
Vitals: Tm 97.9 HR 40 BP 90/50 RR 16 SaO2 99% 
General: Alert, oriented, no acute distress. Lying in bed.  
HEENT: Sclera anicteric, MMM.  
Neck: supple, JVP not elevated. 
Lungs: CTAB. No wheezes. 
CV: RRR. Normal S1+ S2. No murmurs. 
Abdomen: Tenderness to  deep palpation in epigastric area and 
LUQ. Soft, non-distended. Active bowel sounds. No rebound, 
guarding, no organomegaly.  
GU: no foley  
Ext: Warm, well perfused.
Neuro: Grossly intact motor and sensation. 
 
Pertinent Results:
ADMISSION LABS/DISCAHRGE LABS:
___ 12:20AM BLOOD WBC-9.2 RBC-5.55 Hgb-13.4* Hct-41.2 
MCV-74* MCH-24.1* MCHC-32.5 RDW-17.3* RDWSD-43.8 Plt ___
___ 06:12AM BLOOD WBC-7.5 RBC-5.36 Hgb-12.9* Hct-40.3 
MCV-75* MCH-24.1* MCHC-32.0 RDW-17.7* RDWSD-45.1 Plt ___
___ 06:12AM BLOOD ALT-80* AST-308* AlkPhos-65 TotBili-0.7
___ 12:20AM BLOOD ALT-88* AST-352* AlkPhos-65 TotBili-0.7
___ 06:12AM BLOOD calTIBC-250* Ferritn-204 TRF-192*
___ 12:20AM BLOOD calTIBC-287 Ferritn-207 TRF-221
___ 12:20AM BLOOD Lipase-24
___ 06:12AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.2 Iron-136
___ 12:20AM BLOOD Albumin-4.2 Iron-98
___ 06:12AM BLOOD Glucose-77 UreaN-8 Creat-0.9 Na-137 K-4.0 
Cl-103 HCO3-25 AnGap-13

IMAGING:
___ RUQ U/S
IMPRESSION: Normal right upper quadrant ultrasound. 

___ GGD:
Impression: Mild esophagitis in the lower esophagus. Normal 
mucosa in the stomach. Normal mucosa in the duodenum. Otherwise 
normal EGD to third part of the duodenum. 

 
Brief Hospital Course:
___ w/ h/o depression and prior SI attempt, presented with 
accidental possible ingestion of foreign objects.

# Ingestion of foreign object, accidental - Patient denies SI 
and ___ medical care. Abdominal exam wnl upon dischage.  
Endoscopy did not identify foreign objects. Pt had normal guaic 
negative BM and tolerated PO well prior to discharge.

# Transaminitis - AST (308)>> ALT (80). Pt denies active EOTH 
use in the past year. No signs of liver decompensation on exam. 
patient remained asymptomatic.

# Microcytic anemia, mild, asymptomatic - Iron studies wnl. no 
evidence of GI bleed. Please consider thalassemia work up as an 
outpatient. 

# Esophagitis - Found on EGD. Pt was started on a short trial of 
omeprazole (20mg qDaily x 4 weeks) given epigastric discomfort.

Transitional Issues:
- please consider further work up of microcytic anemia and 
re-check of H/H
- please consider further work up of transaminitis as an 
outpatient.
- please consider repeat abd plain film at follow-up visit. 
- please evaluate the long need for PPI use pending symptoms.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 

 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
3. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*28 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Accidental Foreign Object Injection

Secondary Diagnosis:
Transaminitis
Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It has been our pleasure caring for you at ___.  You were 
admitted after you possibly ingested some glass shards.  We did 
not find any foreign object when we performed endoscopy.  The 
foreign particles, if any, will likely pass through with your 
bowel movement.

Please follow up with your primary care doctor.

Sincerely,

Your ___ care team
 
Followup Instructions:
___